US06610734B2
5-Chloro-N-{(S,S)-1-[(S)-cyclohex-2-en-1-yl(hydroxy)methyl]-2-methylbutyl}thiophene-2-sulfonamide
To a two dram vial containing magnesium turnings (60 mg, 2.5 mmol) suspended in THF (3 mL) was added 2-bromocyclohexene (288 μL, 2.5 mmol) followed by 5-chlorothiophene-2-sulfonyl isoleucinal (1 mL of a 1 M THF solution, 1 mmol, example 118). The vial was capped and agitated at 50° C. for 18 h. The vial was cooled and sat. aqueous NH4Cl (1 mL) was added. The vial was vortexed and the organic layer was transferred into a tarred vial and the aqueous layer was extracted with EtOAc (1 mL). The combined organics were concentrated in vacuo and the residue was submitted to semipreparative RP-HPLC using the conditions below.

reactant | magnesium | 2.5 mmol, 60 mg | [Mg] | Mg
reactant | 2-bromocyclohexene | 2.5 mmol, 288 μL | BrC1=CCCCC1 | C6H9Br
reactant | 5-chlorothiophene-2-sulfonyl isoleucinal | ClC1=CC=C(S1)S(=O)(=O)N[C@@H]([C@@H](C)CC)C=O | C10H14ClNO3S2
reactant | NH4Cl | 1 mL | [NH4+].[Cl-]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 1 M | C1CCOC1 | C4H8O
product | 5-Chloro-N-{(S,S)-1-[(S)-cyclohex-2-en-1-yl(hydroxy)methyl]-2-methylbutyl}thiophene-2-sulfonamide | ClC1=CC=C(S1)S(=O)(=O)N[C@@H]([C@H](CC)C)[C@@H](O)C1C=CCCC1 | C16H24ClNO3S2
